US09447074B2
7-(4-(methyloxy)-2-{[(4-methyl-2-pyridinyl)methyl]oxy}phenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine
1,1-dimethylethyl 7-(4-(methyloxy)-2-{[(4-methyl-2-pyridinyl)methyl]oxy}phenyl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (4.8 g) was dissolved in dioxane (20 ml). Gaseous hydrogen chloride was passed through the reaction mixture for 1.5 h. The reaction was monitored by TLC. On completion the solid formed was collected by filtration and washed with acetone. The solid was then dissolved in water and the mixture was brought to pH8 using aqueous sodium bicarbonate. The sticky solid observed was extracted with DCM. The organics were dried over sodium sulphate and concentrated in vacuo to yield a solid. This was purified by column chromatography eluting with 0-8% methanol in DCM. Appropriate fractions were combined and concentrated in vacuo to yield a solid. This was triturated in diethyl ether to yield the title compound, 1.7 g (45%).

reactant | 1,1-dimethylethyl 7-(4-(methyloxy)-2-{[(4-methyl-2-pyridinyl)methyl]oxy}phenyl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 4.8 g | COC1=CC(=C(C=C1)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1)OCC1=NC=CC(=C1)C | C29H34N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 7-(4-(methyloxy)-2-{[(4-methyl-2-pyridinyl)methyl]oxy}phenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | COC1=CC(=C(C=C1)C1=CC2=C(CCNCC2)C=C1)OCC1=NC=CC(=C1)C | C24H26N2O2
